US05488055
To a solution of 1-ethyl-4-chloro-6-(methylthio)-1H-pyrazolo[3, 4-b]quinoline (2.4 g, 8.7 mmol) in CHCl3 (50 mL) at -40° C. was added m-chloroperoxybenzoic acid (2.75 g, 8.7 mmol). The reaction mixture was slowly warmed to 0° C. and then saturated NaHCO3 (10 mL) was added. The reaction mixture was partitioned between water (20 mL) and CH2Cl2 (20 mL), the layers were separated and then the aqueous layer was extracted with CH2Cl2 (20 ml). The CH2Cl2 extracts were combined, dried over MgSO4 and evaporated. The residue was purified by column chromatography on silica gel eluting with 50% ether/hexane, then 25% ethyl acetate/25% hexane/50% ether and finally ethyl acetate (100%) to afford 2.4 g of 1-ethyl-4-chloro-6-(methylsulfinyl)-1H-pyrazolo[3,4-b]quinoline.

reactant | 1-ethyl-4-chloro-6-(methylthio)-1H-pyrazolo[3, 4-b]quinoline | 8.7 mmol, 2.4 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)SC | C13H12ClN3S
reactant | m-chloroperoxybenzoic acid | 8.7 mmol, 2.75 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-ethyl-4-chloro-6-(methylsulfinyl)-1H-pyrazolo[3,4-b]quinoline | 2.4 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)S(=O)C | C13H12ClN3OS
